US09062028B2
Step A. tert-Butyl 3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)phenylcarbamate
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.88 g, 4.54 mmol) in acetonitrile (20 mL) was added cesium carbonate (4.43 g, 13.61 mmol) and tert-butyl 3-(bromomethyl)phenylcarbamate (1.298 g, 4.54 mmol). The reaction was stirred at room temperature for 3 h. After this time, the reaction mixture was diluted with ethyl acetate and washed with water and brine. The aqueous phase was extracted with CHCl3. The combined organic layer was dried over anhydrous MgSO4, filtered, and concentrated. The resulting residue was purified by (0-100% ethyl acetate:hexanes) to afford the title compound (1.06 g, 2.65 mmol, 59% yield) as a colorless oil. LCMS, [M+H]+=400.3.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.54 mmol, 0.88 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 13.61 mmol, 4.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 3-(bromomethyl)phenylcarbamate | 4.54 mmol, 1.298 g | BrCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C12H16BrNO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)phenylcarbamate | 2.65 mmol, 1.06 g, 59% yield | CC1(OB(OC1(C)C)C=1C=NN(C1)CC=1C=C(C=CC1)NC(OC(C)(C)C)=O)C | C21H30BN3O4
